US07759373B2
To a solution of 5-(2-cyanoethyl)-2-(4-fluorophenyl)-4-(2-methoxyphenyl)imidazole (40 mg) in dichloromethane (10 ml) was added dropwise boron tribromide (94 mg) under ice-cooling, and the mixture was stirred at room temperature overnight. To the reaction mixture was added dropwise a saturated aqueous sodium hydrogen carbonate solution under ice-cooling, and then, the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative TLC (solvent: hexane:ethyl acetate=1:1), and further purified by NH silica gel column chromatography (solvent: hexane:ethyl acetate=1:1). To the product was added hydrogen chloride-ethanol solution and the mixture was concentrated to obtain 5-(2-cyanoethyl)-2-(4-fluorophenyl)-4-(2-hydroxyphenyl)-imidazole hydrochloride (6 mg) as colorless solid.

reactant | 5-(2-cyanoethyl)-2-(4-fluorophenyl)-4-(2-methoxyphenyl)imidazole | 40 mg | C(#N)CCC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=C(C=CC=C1)OC | C19H16FN3O
reactant | boron tribromide | 94 mg | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(2-cyanoethyl)-2-(4-fluorophenyl)-4-(2-hydroxyphenyl)-imidazole hydrochloride | 6 mg | Cl.C(#N)CCC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=C(C=CC=C1)O | InChI=1S/C18H14FN3O.ClH/c19-13-9-7-12(8-10-13)18-21-15(5-3-11-20)17(22-18)14-4-1-2-6-16(14)23;/h1-2,4,6-10,23H,3,5H2,(H,21,22);1H
